US04725610
A solution of 4-{2-[2-(4-benzyloxyphenyl)-5-methyl-4-oxazolyl]ethoxy}nitrobenzene (10.65 g) in methanol (200 ml) was subjected to a catalytic hydrogenation over 10% Pd-C (50% wet, 4.0 g). After the catalyst was filtered off, the filtrate was concentrated to give 4-{2-[2-(4-hydroxyphenyl)-5-methyl-4-oxazolyl]ethoxy}aniline (6.21 g, 78.2%). Recrystallization from methanol afforded brownish prisms, m.p. 184°-185° C. Elemental analysis for C18H18N2O3 ; Calcd.: C, 69.66; H, 5.85; N, 9.03. Found: C, 69.69; H, 5.87; N, 9.01.

reactant | 4-{2-[2-(4-benzyloxyphenyl)-5-methyl-4-oxazolyl]ethoxy}nitrobenzene | 10.65 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1OC(=C(N1)CCOC1=CC=C(C=C1)[N+](=O)[O-])C | C25H22N2O5
solvent | methanol | 200 ml | CO | CH4O
catalyst | Pd-C | 4.0 g | [Pd] | Pd
product | 4-{2-[2-(4-hydroxyphenyl)-5-methyl-4-oxazolyl]ethoxy}aniline | 6.21 g, 78.2% | OC1=CC=C(C=C1)C=1OC(=C(N1)CCOC1=CC=C(N)C=C1)C | C18H18N2O3
